US05840732
iv) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 287 mg (0.73 mmol) of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione in 10 ml of methanol, 0.10 ml of concentrated hydrochloric acid was added, followed by stirring, after which the solvent was distilled off. The residue was washed with diethyl ether to yield 280 mg (89.6%, light yellow foamy substance) of the desired product.

reactant | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione | 0.73 mmol, 287 mg | C(CCC)=C1C(N(C(S1)=O)CCCCS(=O)C1=CC=CC=2N1C=CN2)=O | C18H21N3O3S2
reactant | hydrochloric acid | 0.10 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylsulfinyl)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCS(=O)C1=CC=CC=2N1C=CN2)=O | InChI=1S/C18H21N3O3S2.ClH/c1-2-3-7-14-17(22)21(18(23)25-14)11-4-5-13-26(24)16-9-6-8-15-19-10-12-20(15)16;/h6-10,12H,2-5,11,13H2,1H3;1H
